US04035409
To 157 g isodecyl alcohol in 200 ml xylene is added 117 g AA, 1.0 g HQ and 2.0Q PTSA. The reaction mixture is heated for 2 hrs. at reflux (140° C) while the water of reaction is collected (17 ml). The reaction mixture is cooled and the xylene removed under reduced pressure to give 250 g isodecyl acrylate. The analytical data for this acrylate is shown below.

reactant | isodecyl alcohol | 157 g | C(CCCCCCC(C)C)O | C10H22O
reactant | PTSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | water | O | H2O
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | isodecyl acrylate | 250 g | C(C=C)(=O)OCCCCCCCC(C)C | C13H24O2
